US04743586
A mixture of 10 g of 5-methyl-1H-imidazole-4-carboxylic acid hydrazide, 80 ml of trimethylorthobutyrate and 395 ml of absolute ethanol was treated and described in Example 1, giving 16.5 g of 5-methyl-4-imidazolecarboxylic acid, 2-(1-methoxybutylidene)hydrazide.

reactant | 5-methyl-1H-imidazole-4-carboxylic acid hydrazide | 10 g | CC1=C(N=CN1)C(=O)NN | C5H8N4O
reactant | trimethylorthobutyrate | 80 ml | COC(CCC)(OC)OC | C7H16O3
solvent | ethanol | 395 ml | C(C)O | C2H6O
product | 5-methyl-4-imidazolecarboxylic acid, 2-(1-methoxybutylidene)hydrazide | 16.5 g | COC(CCC)=NNC(=O)C=1N=CNC1C | C10H16N4O2
